US07253168B2
Step 4. Preparation of cis-5-(4-methoxy-2,3-dimethylphenyl)pyrrolidine-2-carboxylic acid ethyl ester
A solution of 2-(benzhydrylideneamino)-5-(4-methoxy-2,3-dimethylphenyl)-5-oxopentanoic acid ethyl ester (16.56 mmol) in EtOH (80 mL) containing 10% Pd/C (760 mg) is stirred under an atmosphere of H2 (double-stuffed balloon) for 18 h. The reaction mixture is then filtered through of pad of Celite using MeOH for the rinse. The filtrated is concentrated in vacuo to a nearly colorless syrup, which is used in the next reaction without further purification. 1H NMR (CDCl3, 400 MHz): 7.46 (d, J=8.6 Hz, 1H), 6.75 (d, J=8.6 Hz, 1H), 4.40 (dd, J=8.8, 6.6 Hz, 1H), 4.23 (q, J=8.8 Hz, 2H), 3.90 (dd, J=8.6, 5.4 Hz, 1H), 3.82 (s, 3H), 2.29 (s, 3H), 2.19 (s, 3H), 2.25-2.05 (m, 4H), 1.72-1.65 (m, 1H), 1.31 (t, J=8.8 Hz, 3H). Electrospray MS: m/z 278 [M+1].

reactant | 2-(benzhydrylideneamino)-5-(4-methoxy-2,3-dimethylphenyl)-5-oxopentanoic acid ethyl ester | 16.56 mmol | C(C)OC(C(CCC(=O)C1=C(C(=C(C=C1)OC)C)C)N=C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C29H31NO4
solvent | EtOH | 80 mL | CCO | C2H6O
catalyst | Pd/C | 760 mg | [Pd] | Pd
product | cis-5-(4-methoxy-2,3-dimethylphenyl)pyrrolidine-2-carboxylic acid ethyl ester | C(C)OC(=O)[C@@H]1N[C@@H](CC1)C1=C(C(=C(C=C1)OC)C)C | C16H23NO3
